US07576115B2
1) Synthesis of 1-[5-(3,5-dimethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (7.29 mmol, 730 mg) and (3,5-dimethylphenyl)(oxo)acetaldehyde (7.29 mmol, 1.18 g) synthesized in Reference Synthetic Example 10 were dissolved in acetic acid (25 mL) and stirred at 100° C. for 5 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) and then by silica gel thin layer chromatography (n-hexane/ethyl acetate=3/1) to give the desired product as an orange liquid (93 mg, yield 5%).

reactant | 2-Oxopropanal methylhydrazone | 7.29 mmol, 730 mg | CNN=CC(C)=O | C4H8N2O
reactant | (3,5-dimethylphenyl)(oxo)acetaldehyde | 7.29 mmol, 1.18 g | CC=1C=C(C=C(C1)C)C(C=O)=O | C10H10O2
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(3,5-dimethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 93 mg, yield 5% | CC=1C=C(C=C(C1)C)C1=C(C(=NN1C)C(C)=O)O | C14H16N2O2
